US07176310B1
C. 2-[(Adamantan-1-ylmethyl)amino]pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
To a solution of 2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (50 mg, 0.19 mmol) in 4/1 dioxane/water (0.6 mL) in a sealed tube was added 1-adamantanemethyl amine (250 μL, 1.4 mmol). The solution was heated at 110° C. for 18 h, cooled, diluted with 3% HCl and then poured into water to form a precipitate. The solids were collected by filtration, washed with water and dried. Trituration of the solids with ethyl acetate at about 70° C., followed by a hot filtration and washing with hexane, afforded 16.7 mg (24% yield) of the titled product as a white solid. API-MS m/z 381 (MH)+, 379 (M−H)−.

reactant | 2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.19 mmol, 50 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)SC | C12H10FN3OS
reactant | dioxane water | 0.6 mL | O1CCOCC1.O
reactant | 1-adamantanemethyl amine | 1.4 mmol, 250 μL | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | water | O | H2O
solvent | HCl | Cl | ClH
product | 2-[(Adamantan-1-ylmethyl)amino]pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 16.7 mg, 24% yield | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)NCC12CC3CC(CC(C1)C3)C2 | C22H25FN4O
